US07435815B2
N-Benzyl-N-(2-hydroxy-ethyl)-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid with 2-benzylamino-ethanol

reactant | [(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C16H17NO5S
reactant | 2-benzylamino-ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
product | N-Benzyl-N-(2-hydroxy-ethyl)-2-[(2-methoxy-phenyl)-(toluene-2-sulfonyl)-amino]-acetamide | C(C1=CC=CC=C1)N(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C1=C(C=CC=C1)OC)=O)CCO | C25H28N2O5S
